US06921762B2
Step B: 5-(1-(t-butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine
5-Chloro-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine (2.0 g, 5.0 mmol), 1-(t-butoxycarbonyl)-4-(trifluoromethyl sulfonyloxy)-1,2,3,6-tetrahydropyridine (2.0 g, 6.0 mmol), lithium chloride (6.64 g, 15.0 mmol), hexamethylditin (2.0 g, 6.0 mmol) and tetrakistriphenylphosphinopalladium (0.3 g, 0.25 mmol) were combined in dioxane (25 ml) and the resulting solution was heated to 90° C. for 18 hours. The mixture was added to aq. KF and was stirred for 2 hours and then partitioned with methylene chloride. The organic layer was dried over sodium sulfate, filtered and concentrated to a syrup. Purification by column chromatography on silica gel (30% ethyl acetate in hexane) gave the product as a syrup; MS m/z (M+H)+ 557.2; C27H24F3ClN6O2 require 556.2.

reactant | 5-Chloro-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | 5.0 mmol, 2.0 g | ClC1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)Cl | C17H8Cl2F3N5
reactant | 1-(t-butoxycarbonyl)-4-(trifluoromethyl sulfonyloxy)-1,2,3,6-tetrahydropyridine | 6.0 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | lithium chloride | 15.0 mmol, 6.64 g | [Cl-].[Li+]
reactant | hexamethylditin | 6.0 mmol, 2.0 g | C[Sn](C)C.C[Sn](C)C
reactant | KF | [F-].[K+]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakistriphenylphosphinopalladium | 0.25 mmol, 0.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(1-(t-butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)Cl | C27H24ClF3N6O2
